US07101903B2
9-Benzyl-6-(1,1′-biphenyl-4-yl)-1,9-dihydropyrano[3,4-b]indole-3,4-dione
The title compound was prepared from [1-benzyl-5-bromo-2-(hydroxymethyl)-1H-indol-3-yl](oxo)acetic acid, potassium salt and 4-biphenylboronic acid in substantially the same manner, as described in step 4 of Example 9. The product was obtained as a white solid, mp: 254–255° C.; Mass spectrum (ESI, [M+H]+) m/z 444. 1H NMR (400 MHz, DMSO-d6) δ 8.26(s, 1H), 7.75–7.68 (m, 8H), 7.45–7.43 (m, 2H), 7.36–7.23 (m, 6H), 5.89 (s, 2H), 5.53 ppm (s, 2H).

reactant | [1-benzyl-5-bromo-2-(hydroxymethyl)-1H-indol-3-yl](oxo)acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)C(C(=O)O)=O)CO | C18H14BrNO4
reactant | potassium | [K] | K
reactant | 4-biphenylboronic acid | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
product | 9-Benzyl-6-(1,1′-biphenyl-4-yl)-1,9-dihydropyrano[3,4-b]indole-3,4-dione | C(C1=CC=CC=C1)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)C1=CC=CC=C1)C(C(OC2)=O)=O | C30H21NO3
